US04263207
Methyl 11-chlorodibenzo[b,f][1,4]thiazepin-3-carboxylate
At room temperature, add 14.25 gm. (50 mmole) of methyl 10,11-dihydrodibenzo[b,f][1,4]-thiazepin-11-one-3-carboxylate to a stirred mixture of 10.425 gm. (50 mmole) of phosphorous pentachloride in 50 ml. of phosphorous oxychloride. Stir for 30 minutes, add an additional 1 gm. of phosphorous pentachloride and continue stirring for one hour. Partition the reaction mixture between a mixture of 400 ml. of methylene chloride, 350 gm. of ice and 150 ml. of water. Separate the aqueous layer and extract with 50 ml. of methylene chloride. Wash the combined organic extracts with a mixture of 100 gm. of ice and 100 ml. of water. Dry the methylene chloride solution over magnesium sulfate, charcoal and filter. Evaporate the solution, take-up in 50 ml. of dry toluene and again evaporate. Take up the residue in 25 ml. of acetonitrile, cool in an ice bath and separate the precipitate by filtration to obtain the title product. (m.p. 134°-135.5° C.)

reactant | methyl 10,11-dihydrodibenzo[b,f][1,4]-thiazepin-11-one-3-carboxylate | 50 mmole | C1=CC(=CC2=C1C(NC1=C(S2)C=CC=C1)=O)C(=O)OC | C15H11NO3S
reactant | phosphorous pentachloride | 50 mmole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Methyl 11-chlorodibenzo[b,f][1,4]thiazepin-3-carboxylate | ClC1=NC2=C(SC3=C1C=CC(=C3)C(=O)OC)C=CC=C2 | C15H10ClNO2S
